US05030752
Preparation of 3-formyl-2,4,6-trimethylbenzenesulfonyl fluoride (compound No. 7)
18.9 ml of 1,3,5-trimethylbenzene was reacted with 20 ml of fluorosulfonic acid and carbon monoxide in the presence of 10 ml of antimony pentafluoride and 10 ml of trifluoroacetic acid as a solvent at 20° C. for 48 hours in substantially the same manner as that of Example 1. The molar ratio of 1,3,5-trimethylbenzene : fluorosulfonic acid : antimony pentafluoride was 1 : 3.5 : 1.4, while the consumption of carbon monoxide was 2.24 λ. The same analyses as those of Example 1 were made to confirm the formation of 6.9 g of 3-formyl-2,4,6-trimethylbenzenesulfonyl fluoride (compound No. 7) in a yield of 30 % based on 1,3,5-trimethylbenzene. mass spectrum: M+ (m/e)=230.

reactant | 1,3,5-trimethylbenzene | 18.9 ml | CC1=CC(=CC(=C1)C)C | C9H12
reactant | fluorosulfonic acid | 20 ml | FS(=O)(=O)O | FHO3S
reactant | carbon monoxide | [C]=O | CO
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | antimony pentafluoride | 10 ml | [Sb](F)(F)(F)(F)F
product | 3-formyl-2,4,6-trimethylbenzenesulfonyl fluoride | yield of 30 % | C(=O)C=1C(=C(C(=CC1C)C)S(=O)(=O)F)C | C10H11FO3S
